US06596772B1
4-[2,3-Bis-(2-nitro4-trifluoromethanesulfonyl-phenoxy)-propyl]-morpholine (56).
Using the same procedure as for Example 54, a mixture of 3-morpholin-4-yl-propane-1,2-diol (40 mg, 0.25 mmol), sodium hydride (60%, 30 mg) and 1-chloro-2-nitro-4-trifluoromethanesulfonyl-benzene (174 mg, 0.6 mmol) in acetonitrile (1 mL) was heated to reflux, worked-up and purified on silica gel to give the title compound. 1H NMR (360 MHz, DMSO-d6) δ 8.59 (d, J=2.3 Hz, 2H), 8.35 (dd, J=2.3 & 9.2 Hz, 1H), 8.30 (dd, J=2.3 & 9.2 Hz, 1H), 7.97 (d, J=9.2 Hz, 1H), 7.79 (d, J=9.2 Hz, 1H), 5.49 (m, 1H), 4.79 (m, 1H), 4.66 (m, 1H), 3.41 (m, 4H), 2.74 (d, J=6.1 Hz, 2H), 2.4-2.5 (m, 4H). MS+ve APCI 668 [M+1].

reactant | 3-morpholin-4-yl-propane-1,2-diol | 0.25 mmol, 40 mg | N1(CCOCC1)CC(CO)O | C7H15NO3
reactant | sodium hydride | 30 mg | [H-].[Na+]
reactant | 1-chloro-2-nitro-4-trifluoromethanesulfonyl-benzene | 0.6 mmol, 174 mg | ClC1=C(C=C(C=C1)S(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO4S
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 4-[2,3-Bis-(2-nitro4-trifluoromethanesulfonyl-phenoxy)-propyl]-morpholine | [N+](=O)([O-])C1=C(OC(CN2CCOCC2)COC2=C(C=C(C=C2)S(=O)(=O)C(F)(F)F)[N+](=O)[O-])C=CC(=C1)S(=O)(=O)C(F)(F)F | C21H19F6N3O11S2
